US07435823B2
Step (b) Preparation of N-(6-((6,7-bis(methoxy)-4-quinolinyl)oxy)-2-naphthalenyl)-2-((2-(dimethylamino)ethyl)oxy)-3-pyridinecarboxamide
To a mixture of N-[6-(6,7-dimethoxy-(4-quinolyloxy))(2-naphthyl)](2-fluoro-(3-pyridyl))carboxamide (Step a, 62 mg, 0.13 mmol) and K2CO3 (166 mg, 1.3 mmol) in dry NMP (5 mL, Aldrich) was added N,N-dimethylethanolamine (35 mg, 0.36 mmol, Aldrich) at RT. The reaction was stirred at 110° C. for 16 h. The mixture was cooled and diluted with 60 mL of EtOAc, then washed with water and brine. The organic phase was dried over MgSO4 and concentrated. The residue was purified by prep-HPLC to give title compound as a white solid. MS (ESI, pos. ion) m/z: 539 (M+1). Mass Calc'd for C31H30N4O5: 538.22.

reactant | N-[6-(6,7-dimethoxy-(4-quinolyloxy))(2-naphthyl)](2-fluoro-(3-pyridyl))carboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC(=CC2=CC1)NC(=O)C=1C(=NC=CC1)F | C27H20FN3O4
reactant | K2CO3 | 1.3 mmol, 166 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethylethanolamine | 0.36 mmol, 35 mg | CN(CCO)C | C4H11NO
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | N-(6-((6,7-bis(methoxy)-4-quinolinyl)oxy)-2-naphthalenyl)-2-((2-(dimethylamino)ethyl)oxy)-3-pyridinecarboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC(=CC2=CC1)NC(=O)C=1C(=NC=CC1)OCCN(C)C | C31H30N4O5
